US08541448B2
Intermediate 30.6: N-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)acetamide
Into a 100-mL 3-necked round-bottom flask, was placed a solution of N-(4-(2-((2,4-dichlorobenzyl)(methyl)amino)-1-hydroxyethyl)phenyl)acetamide (500 mg, 1.36 mmol, 1.00 equiv) in dichloromethane (3 mL). This was followed by the addition of sulfuric acid (3 mL) dropwise with stirring at 0° C. The resulting solution was stirred for 5 h at 0-5° C. The reaction was then quenched by the addition of 20 mL of water/ice. The pH value of the solution was adjusted to 7-8 with sodium hydroxide. The resulting solution was extracted with 3×20 mL of ethyl acetate and the organic layers combined and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:10-1:5). This resulted in 25 mg (5%) of N-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)acetamide as a white solid. 1H-NMR (300 HMz, CDCl3, ppm): δ 7.46-7.49 (2H, d, J=8.4 Hz), 7.23-7.29 (1H, m), 7.12-7.15 (2H, d, J=8.4 Hz), 6.80 (1H, s), 4.314 (1H, s), 3.92 (1H, d), 3.58-3.63 (1H, d), 3.06 (1H, s), 2.61-2.68 (1H, m), 2.57 (3H, s), 2.20 (3H, s). MS (ES, m/z): 349 [M+H]+.

reactant | N-(4-(2-((2,4-dichlorobenzyl)(methyl)amino)-1-hydroxyethyl)phenyl)acetamide | 1.36 mmol, 500 mg, 1.00 equiv | ClC1=C(CN(CC(O)C2=CC=C(C=C2)NC(C)=O)C)C=CC(=C1)Cl | C18H20Cl2N2O2
reactant | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)acetamide | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C1=CC=C(C=C1)NC(C)=O | C18H18Cl2N2O
